US07777047B2
N-{2-[5-(morpholinomethyl)-4,5-dihydro-1,3-thiazol-2-yl]-1H-indol-7-yl}-N-(2-thienylsulfonyl)glycinamide
To a solution of N-{2-[5-(morpholinomethyl)-4,5-dihydro-1,3-thiazol-2-yl]-1H-indol-7-yl}-N-(2-thienylsulfonyl)glycine (60 mg) in N,N-dimethylformamide (5 mL) were added 1H-1,2,3-benzotriazol-1-ol-ammonia complex (30 mg) and N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride (35 mg) under ice-cooling, and the mixture was stirred overnight at room temperature. Saturated aqueous sodium hydrogencarbonate was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with water and saturated brine, dried (MgSO4), and concentrated. The residue was recrystallized from a mixed solvent of ethyl acetate-hexane to give the title compound (43 mg, yield 71%) as white crystals. MS: 520 (MH+).

reactant | N-{2-[5-(morpholinomethyl)-4,5-dihydro-1,3-thiazol-2-yl]-1H-indol-7-yl}-N-(2-thienylsulfonyl)glycine | 60 mg | O1CCN(CC1)CC1CN=C(S1)C=1NC2=C(C=CC=C2C1)N(CC(=O)O)S(=O)(=O)C=1SC=CC1 | C22H24N4O5S3
reactant | N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride | 35 mg | Cl.CN(CCCN=C=NCC)C
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | N-{2-[5-(morpholinomethyl)-4,5-dihydro-1,3-thiazol-2-yl]-1H-indol-7-yl}-N-(2-thienylsulfonyl)glycinamide | 43 mg, yield 71% | O1CCN(CC1)CC1CN=C(S1)C=1NC2=C(C=CC=C2C1)N(C(CN)=O)S(=O)(=O)C=1SC=CC1 | C22H25N5O4S3
